US06429214B1
3-Methoxycarbonylmethyl-2-oxo-1,2.3,4-tetrahydro-quinolin-7-carboxylic acid tert-butyl ester
A solution of 2-(4-tert-butoxycarbonyl-2-nitro-benzylidene)-succinic acid dimethyl ester (5.0 g, 13.2 mmol) in methanol (40 mL) with 10% Pd/C was hydrogenated at 50 psi and 25° C. for 20 h. The reaction mixture was filtered to afford after evaporation in vacuo the title compound as a gray solid (3.56 g, 85%). NMR (dmso-d6, 200 MHz) : δ1.5 (s, 9H, tert-butyl), 2.7-3.4 (m, 5H, CH2CHCH2), 3.6 (s, 3H, CH3), 7.2-7.5 (m, 3H, ArH), 10.3 (s, 1H, NH).

reactant | 2-(4-tert-butoxycarbonyl-2-nitro-benzylidene)-succinic acid dimethyl ester | 13.2 mmol, 5.0 g | COC(C(CC(=O)OC)=CC1=C(C=C(C=C1)C(=O)OC(C)(C)C)[N+](=O)[O-])=O | C18H21NO8
solvent | methanol | 40 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-Methoxycarbonylmethyl-2-oxo-1,2.3,4-tetrahydro-quinolin-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=CC=C2CC(C(NC2=C1)=O)CC(=O)OC | C17H21NO5
